US06288120B1
{3-[(4-Thiazol-2-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester.
A solution of (3-aminomethyl-phenoxy)-acetic acid tert-butyl ester (0.14 9, 0.59 mmol) and 4-thiazol-2-yl-benzaldehyde (0.105 g, 0.55 mmol) in 2 mL MeOH was stirred at room temperature for 1.5 hours. After cooling to 0° C., NaBH4 (0.033 g, 0.88 mmol) was added and the reaction was stirred for 10 minutes. The mixture was quenched with aqueous saturated NaHCO3:H2O (1:1) and the MeOH was removed in vacuo. The product was extracted into CH2Cl2 and the organic solution was dried over MgSO4, filtered, and concentrated in vacuo to afford a brown oil. The product was purified via flash chromatography on silica gel (6/4 EtOAc/Hexanes) to afford the title compound of Step A (0.140 g). 1H NMR (400 MHz, CDCl3) δ 7.91 (d, 2H), 7.82 (s, 1H), 7.40 (d, 2H), 7.23-7.38 (m, 2H), 6.94 (m, 2H), 6.78 (d, 1H), 4.49 (s, 2H), 3.80 (s, 2H), 3.76 (s, 2H), 1.45 (s, 9H); MS 411 (M+1).

reactant | (3-aminomethyl-phenoxy)-acetic acid tert-butyl ester | 0.59 mmol | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN)=O | C13H19NO3
reactant | 4-thiazol-2-yl-benzaldehyde | 0.55 mmol, 0.105 g | S1C(=NC=C1)C1=CC=C(C=O)C=C1 | C10H7NOS
reactant | NaBH4 | 0.88 mmol, 0.033 g | [BH4-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
product | {3-[(4-Thiazol-2-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester | 0.140 g | C(C)(C)(C)OC(COC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C=1SC=CN1)=O | C23H26N2O3S
